US07939533B2
(2S,4S)-N-[6-(4-Acetylamino-2-hydroxymethyl-pyrrolidin-1-yl)-4-(2-chloro-phenyl)-pyridin-3-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide
A mixture of 30 mg (0.056 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide, 200 mg (1.27 mmol) (2S,4S)-4-acetylamino-2-hydroxymethyl-pyrrolidine and 0.2 ml dimethyl sulfoxide was heated at 130° C. for 24 h. After cooling to room temperature, 22 mg (59%) of the title compound were isolated as a white solid by automated, preparative HPLC (YMC CombiPrep C18 column 50×20 mm, solvent gradient 5-95% CH3CN in 0.1% TFA(aq) over 6.0 min, λ=230 nm, flow rate 40 ml/min). (2S,4S)-4-Acetylamino-2-hydroxymethyl-pyrrolidine can be obtained by the method described by Terry Rosen, Daniel T. W. Chu, Isabella M. Lico, Isabella M. Lico, Prabhavathi B. Fernandes, Kennan Marsh, Linus Shen, Valerie G. Cepa, André G. Pernet, J. Med. Chem. 1988, 31, 1598.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.056 mmol, 30 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)Cl)Cl)(C)C)(F)F | C24H18Cl2F6N2O
reactant | (2S,4S)-4-acetylamino-2-hydroxymethyl-pyrrolidine | 1.27 mmol, 200 mg | C(C)(=O)N[C@H]1C[C@H](NC1)CO | C7H14N2O2
reactant | dimethyl sulfoxide | 0.2 ml | CS(=O)C | C2H6OS
reactant | CH3CN | CC#N | C2H3N
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2S,4S)-N-[6-(4-Acetylamino-2-hydroxymethyl-pyrrolidin-1-yl)-4-(2-chloro-phenyl)-pyridin-3-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide | 22 mg, 59% | C(C)(=O)N[C@H]1C[C@H](N(C1)C1=CC(=C(C=N1)N(C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)C1=C(C=CC=C1)Cl)CO | C31H31ClF6N4O3
